US04147793
Bromine (0.02 mol) was added dropwise to a stirred solution of 2-(α-methylbenzyl)acetophenone (0.02 mol) in dry diethyl ether (20 ml) at 5° over one hour. The ether was removed in vacuo and the residue redissolved in ether (100 ml), washed with saturated sodium bicarbonate solution (2 × 100 ml) and then water (4 × 100 ml), and dried over anhydrous sodium sulphate. Removal of the solvent gave a solid which on recrystallisation from petroleum ether (40°-60°) gave 2-bromo-3-phenylbutyrophenone, m.p. 69°-71°.

reactant | Bromine | 0.02 mol | BrBr | Br2
reactant | 2-(α-methylbenzyl)acetophenone | 0.02 mol | CC(C1=CC=CC=C1)CC(=O)C1=CC=CC=C1 | C16H16O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 2-bromo-3-phenylbutyrophenone | BrC(C(=O)C1=CC=CC=C1)C(C)C1=CC=CC=C1 | C16H15BrO
